US04211773
A mixture of 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-fluorocytosine (650 mg) in 80% acetic acid (50 ml) is heated under reflux for 48 hours. After removal of the solvent in vacuo the residue is chromatographed over a column of silica gel G60 (22×2 cm) using CHCl3 :MeOH (30:1 v/v) as the eluent. Each fraction is checked by tlc and the appropriate fractions are collected and evaporated in vacuo, and the residue is crystallized from ethanol to give pure 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-fluorouracil, 300 mg, m.p. 177°-179°.

reactant | 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-fluorocytosine | 650 mg | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)N=C(N)C(=C1)F)F | C18H17F2N3O6
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-fluorouracil | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C(=C1)F)F | C18H16F2N2O7
